* C:\Kicad\ClassD_3.0\push-pull.asc
M1 Vd1 G2 0 0 BSB012N03LX3
L1 Vin Vd2 30µ
L3 N003 N001 30µ
V1 Vin 0 13
V2 N005 0 PULSE(0 5 0 1n 1n 15u 30u)
L2 Vd1 Vin 30µ
M2 Vd2 G1 0 0 BSB012N03LX3
V3 N006 0 PULSE(0 5 15u 1n 1n 15u 30u)
R3 G1 N005 1
R4 G2 N006 1
R1 N002 N001 5
C1 N002 0 1µ
L4 0 N003 30µ
C2 0 N004 1µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\snick\AppData\Local\LTspice\lib\cmp\standard.mos
K1 L1 L2 L3 L4 1
.tran 200u
;K1 L1 L4 1
.meas Imax MAX I(r1)
.meas imin MIN I(r1)
.backanno
.end
